Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hyperglycemia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a very nice ___ YO ___ 
gentleman with DM2 on insulin, CAD, dCHF, HL, hypothyroidism, PE 
on coumadin who had labs done by PCP this morning which were 
abnormal. He was in his prior state of health until today when 
he came to have his INR checked and see his PCP for multiple 
complaints, including higher glucose measurements, especially in 
AM since he stopped his lasix. His PCP ___ the lasix, 
mostly due to concern for higher BP and worsening dCHF. He took 
his first dose today at home. Dr. ___ switched him from 
nexium to ranitidine. He arrived home and was called to come to 
the emergency room given abnormal labs including a Na of 159, Cl 
85, CO2 of 12 with AG 62. Glucose was added and was 185. He has 
otherwise been feeling well. Denies any fever, chills, rigors, 
cough, changes in his activity, diet or mediactions. No sick 
contacts.  
.  
In ED vitals 96.9 84 150/72 18 100%. He had a normal exam with 
clear lungs and no murmurs (according to ED note). Had 2 IV 
placed and labs drawn that showed Na 136, Cl 99, CO2 23, AG 14, 
glucose of 453. He had a CXR done that did not show any 
pneumonia. ECG did not show signs of ischemia and was admitted 
for obs. Repeat fingerstick was 283 and he did not receive any 
insulin.  
.
 
Past Medical History:
# CAD s/p multiple PCIs: details below
# Diastolic CHF: EF 55% on ___ echo  
# Hypertension  
# Diabetes  
# Hyperlipidemia  
# Hypothyroidism  
# GERD  
# NASH
# Appendectomy
# Chronic back pain
# ED
# acoustic neuroma
# s/p appy
.  
Cardiac Risk Factors: Diabetes, Dyslipidemia, Hypertension  
.  
Percutaneous coronary interventions:
-- ___: anatomy unknown
-- ___: Successful POBA and direct bare metal stenting of the 

RCA.
-- ___: One vessel coronary artery disease (known 2 vessel 
CAD with LCA not injected).  PTCA of the instent occlusion of 
the distal RCA.
-- ___: POBA of the RCA and successful stenting of the Ramus.
-- ___: Stenting of the distal AVG LCX. Stenting of the OM2-3 

origin disease. Stenting of the proximal RI disease. All were 
drug eluting stents.
-- ___: PTCA and stenting of the AVG LCX (with a 2.5x15 mm 
Xience DES) and proximal RI (with 3.0x16 mm Taxus DES).
-- ___: 50-60% mid LAD, 80% distal LAD; 90% stent restenosis 

at origin OM1; 40-50% distally; 90% restenosis of OM2. POBA with 

cutting and kissing balloon.

 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death.  Family history otherwise 
non-contributory.
Father died of an MI at age ___.
Mother died of an MI at age ___.
 
Physical Exam:
Vitals: T 97.3 F, HR 78, BP 146/81 mmHg, RR 18 X', SpO2 100% on 
RA  
.  
General Pleasant elderly man, no distress  
HEENT Anicteric, conjunctiva pink, MMM, no sinus tenderness  
Neck No JVD, carotids 2+ no bruits, no adenopathy  
Pulm Lungs CTAB, no wheezing, good air movement, normal 
percussion  
CV RRR, nl S1 S2 no r/g, SEM ___ rad to carotids, peak at 
mid-systole, respecting S2 at RUSB  
Abd Soft nontender +bowel sounds  
Extrem Warm 1+ edema bilateraly, palpable distal pulses. Legs 
symmetric, no cords, no tenderness.  
Neuro Alert, interactive, moving all extremities no focal 
deficits, good strenght, normal gait, normal cerebelar exam  

 
Pertinent Results:
Labs on Admission:
___ 07:25PM BLOOD Glucose-453* UreaN-22* Creat-1.2 Na-136 
K-4.3 Cl-99 HCO3-23 AnGap-18
___ 07:25PM BLOOD WBC-7.8 RBC-4.44* Hgb-12.6* Hct-38.1* 
MCV-86 MCH-28.4 MCHC-33.1 RDW-15.1 Plt ___
___ 07:25PM BLOOD cTropnT-<0.01
.
Labs on Discharge:
___ 06:15AM BLOOD WBC-7.2 RBC-4.42* Hgb-12.5* Hct-36.4* 
MCV-82 MCH-28.3 MCHC-34.4 RDW-15.4 Plt ___
___ 06:15AM BLOOD Glucose-196* UreaN-22* Creat-0.9 Na-140 
K-4.3 Cl-103 HCO3-24 AnGap-17
___ 06:00AM BLOOD %HbA1c-7.4* eAG-166*
.
UA: negative
.
Imaging: IMPRESSION: No findings to suggest pneumonia.
.

 
Brief Hospital Course:
Mr. ___ is a ___ year-old male with CAD status-post multiple 
PCIs with known 3-vessel disease and DM who was sent from his 
PCP's office with abnormal labs.
.  
#. Abnormal labs: Upon re-check in the emergency room, patient's 
labs found to be normal, with the exception of blood glucose. 
Most likely lab artifact.   
.  
#. Hyperglycemia: Noted to have abnormally high glucose on 
chemistry panel in ED. No change in appetite and no signs of 
infection. He reported high sugars at home after receiving a 
steroid injection for hip pain three days prior to admission. 
His high sugars were attributed to absorbed corticosteroid.  His 
Humalog Mix ___ was increased from 50 units in the morning and 
60 units in the evening to 53 and 63 units respectively. He was 
scheduled for immediate follow-up with Dr. ___.
.  
#. PE: Continued coumadin. INR therapeutic.  
.  
#. CAD: Patient asymptomatic, reporting no symptoms of chest 
pain or shortness of breath. Continued home ASA, statin, BB, 
___. 
.  
#. Outstanding Labs: None 
.  
#. Transitions of Care:
- Will require insulin titration, as dose was increased during 
hospital stay as discussed above.
 
Medications on Admission:
1. atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Humalog Mix ___ 100 unit/mL (75-25) Suspension Sig: Fifty 
Three (50) Units Subcutaneous qAM. Disp:*10 mL* Refills:*2* 
4. Humalog Mix ___ 100 unit/mL (75-25) Suspension Sig: Sixty 
Three (60) Units Subcutaneous qPM. Disp:*10 mL* Refills:*2* 
5. levothyroxine 100 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. metformin 850 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
7. metoprolol succinate 200 mg Tablet Extended Release 24 hr 
Sig: One (1) Tablet Extended Release 24 hr PO once a day.  
8. nitroglycerin 0.3 mg Tablet, Sublingual Sig: One (1) Tablet, 
Sublingual Sublingual PRN (as needed) as needed for chest pain.  

9. pilocarpine HCl 2 % Drops Sig: ___ drops Ophthalmic at 
bedtime as needed for dry mouth: Mix in 4 oz of water and take 
nightly for dry mouth per your PCP.  
10. ranitidine HCl 300 mg Capsule Sig: One (1) Capsule PO twice 
a day: Please take before meals.  
11. valsartan 80 mg Tablet Sig: One (1) Tablet PO once a day.  
12. warfarin 5 mg Tablet Sig: One (1) Tablet PO once a day: 
Please take at 4 ___.  
13. aspirin 325 mg Tablet Sig: One (1) Tablet PO once a day.  
14. Humalog 100 unit/mL Solution Sig: Five (5) units 
Subcutaneous before afternoon meal: Please take before afternoon 
meal.  

 
Discharge Medications:
1. atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Humalog Mix ___ 100 unit/mL (75-25) Suspension Sig: Fifty 
Three (53) Units Subcutaneous qAM.
Disp:*10 mL* Refills:*2*
4. Humalog Mix ___ 100 unit/mL (75-25) Suspension Sig: Sixty 
Three (63) Units Subcutaneous qPM.
Disp:*10 mL* Refills:*2*
5. levothyroxine 100 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. metformin 850 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
7. metoprolol succinate 200 mg Tablet Extended Release 24 hr 
Sig: One (1) Tablet Extended Release 24 hr PO once a day.  
8. nitroglycerin 0.3 mg Tablet, Sublingual Sig: One (1) Tablet, 
Sublingual Sublingual PRN (as needed) as needed for chest pain.  

9. pilocarpine HCl 2 % Drops Sig: ___ drops Ophthalmic at 
bedtime as needed for dry mouth: Mix in 4 oz of water and take 
nightly for dry mouth per your PCP.  
10. ranitidine HCl 300 mg Capsule Sig: One (1) Capsule PO twice 
a day: Please take before meals.  
11. valsartan 80 mg Tablet Sig: One (1) Tablet PO once a day.  
12. warfarin 5 mg Tablet Sig: One (1) Tablet PO once a day: 
Please take at 4 ___.  
13. aspirin 325 mg Tablet Sig: One (1) Tablet PO once a day.  
14. Humalog 100 unit/mL Solution Sig: Five (5) units 
Subcutaneous before afternoon meal: Please take before afternoon 
meal.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Hyperglycemia
.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
.
You were admitted to the hospital because you were noted to have 
abnormal bloodwork and a high blood sugar during an outpatient 
doctor's visit. When your bloodwork was re-peated in the 
Emergency Room, your labs were found to be within normal limts. 
However, you continued to have a very high blood sugar. It is 
unclear why your blood sugars have been running so high, though 
it is possibly related to the injection you underwent for hip 
pain. Your blood sugars were monitored during your inpatient 
stay, and showed some improvement.
.
We will make a slight increase to your home dosing of insulin 
upon discharge. It will be important for you to check your 
sugars three times daily (morning, 2 hrs post lunch and 2 hrs 
post dinner)over the coming week. You will follow-up with Dr. 
___ in the next few days. If you find that your blood sugars 
are running abnormally high or low, please call Dr. ___ 
___ or return to the Emergency Room.
.
Please make the following CHANGES to your insulin regimen:
INCREASE HUMALOG MIX ___ from 50 units in the morning and 60 
units in the evening to 53 units in the morning and 63 units in 
the evening.
.
Please continue all other medications as they have been 
prescribed.
 
Followup Instructions:
___